US08030497B2
c) 4-Iodo-2-methoxy-6-nitro-phenylamine
A mixture of 6.2 g (36.9 mmol) 2-methoxy-6-nitro-phenylamine, 9.4 g (37 mmol) iodine and 5.8 g (18.5 mmol) silver sulfate in 90 ml glacial acetic acid is stirred at 60° C. for 12 h. The reaction mixture is cooled to room temperature, poured on water and extracted (3×) with ethyl acetate. The combined organic layers are washed with water (2×) and brine, dried over MgSO4, filtered and concentrated in vacuo. The residue is purified by flash-chromatography on silica gel (hexane:EtOAc=2:1) to afford 8.57 g of the title compound as bright red crystals.

reactant | 2-methoxy-6-nitro-phenylamine | 36.9 mmol, 6.2 g | COC1=C(C(=CC=C1)[N+](=O)[O-])N | C7H8N2O3
reactant | iodine | 37 mmol, 9.4 g | II | I2
solvent | acetic acid | 90 ml | C(C)(=O)O | C2H4O2
catalyst | silver sulfate | 18.5 mmol, 5.8 g | S(=O)(=O)([O-])[O-].[Ag+2]
product | 4-Iodo-2-methoxy-6-nitro-phenylamine | 8.57 g | IC1=CC(=C(C(=C1)[N+](=O)[O-])N)OC | C7H7IN2O3
